US05621010
N-[2-(3,5-diisopropyl-4-hydroxyphenethyl)phenyl]-N'-heptylurea
A solution of diphenylphosphoryl azide (0.88 g, 3.2 mmol), octanoic acid (0.42 g, 2.9 mmol) and triethylamine (0.32 g, 3.2 mmol) in toluene (10 ml) was stirred at room temperature for 1.5 hrs and further stirred at about 90° C. for 2 hrs. After allowing the mixture to cool, a solution of 4-(2-aminophenethyl)-2,6-diisopropylphenol (0.85 g, 2.9 mmol) in toluene (2 ml) was added dropwise under ice-cooling while stirring. The reaction solution was returned slowly to room temperature and stirred overnight. The solvent was distilled off, the residue was purified by a silica gel column chromatography and recrystallized from ethyl acetate/hexane to give crystals of the title compound (0.99 g, 76%). m.p. 150°-151° C.

reactant | diphenylphosphoryl azide | 3.2 mmol, 0.88 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | octanoic acid | 2.9 mmol, 0.42 g | C(CCCCCCC)(=O)O | C8H16O2
reactant | triethylamine | 3.2 mmol, 0.32 g | C(C)N(CC)CC | C6H15N
reactant | 4-(2-aminophenethyl)-2,6-diisopropylphenol | 2.9 mmol, 0.85 g | NC1=C(CCC2=CC(=C(C(=C2)C(C)C)O)C(C)C)C=CC=C1 | C20H27NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(3,5-diisopropyl-4-hydroxyphenethyl)phenyl]-N'-heptylurea | 0.99 g, 76% | C(C)(C)C=1C=C(CCC2=C(C=CC=C2)NC(=O)NCCCCCCC)C=C(C1O)C(C)C | C28H42N2O2
